US08729078B2
In a 25 mL round-bottomed flask, 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (800 mg, 2.26 mmol, Eq: 1.00), palladium (II) acetate (254 mg, 1.13 mmol, Eq: 0.5) and tri-tert-butylphosphine (229 mg, 279 μl, 1.13 mmol, Eq: 0.5) were combined with toluene to give a yellow solution. Morpholine (789 mg, 789 μl, 9.06 mmol, Eq: 4) and sodium tert-butoxide (653 mg, 6.79 mmol, Eq: 3) were added. The reaction mixture was heated to 80° C. and stirred for 1 h. The reaction mixture was poured into 20 mL sat NaCl and extracted with EtOAc (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 80 g, 10% to 15% EtOAc in hexanes) to give 4-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)morpholine (703 mg, 86%) as a light brown oil.

reactant | 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 2.26 mmol, 800 mg | BrC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25BrN2Si
reactant | tri-tert-butylphosphine | 1.13 mmol, 279 μl, 229 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | Morpholine | 9.06 mmol, 789 μl, 789 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 6.79 mmol, 653 mg | CC(C)([O-])C.[Na+]
reactant | NaCl | [Na+].[Cl-]
catalyst | palladium (II) acetate | 1.13 mmol, 254 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)morpholine | 703 mg, 86% | C(C)(C)[Si](N1C=CC=2C1=NC(=CC2)N2CCOCC2)(C(C)C)C(C)C | C20H33N3OSi
